US08486967B2
8-(3-Chloro-4-fluorophenyl)-N-(1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
Prepared in analogy to example 1h, starting from 8-(3-Chloro-4-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine and 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-one. The title compound was obtained as a white solid.

reactant | 8-(3-Chloro-4-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | ClC=1C=C(C=CC1F)C=1C=2N(C=CC1)N=C(N2)N | C12H8ClFN4
reactant | 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-one | CC1=NSC(=N1)N1CCC(CC1)=O | C8H11N3OS
product | 8-(3-Chloro-4-fluorophenyl)-N-(1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | ClC=1C=C(C=CC1F)C=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C2=NC(=NS2)C | C20H19ClFN7S
